US07786157B2
3-Chloro-N-{2-[3-(3-chloro-2-methyl-phenyl)-4-oxo-imidazolidin-1-yl]-2-oxo-ethyl}-N-(2-methanesulfonylamino-ethyl)-benzamide
A mixture of N-(2-Amino-ethyl)-3-chloro-N-{2-[3-(3-chloro-2-methyl-phenyl)-4-oxo-imidazolidin-1-yl]-2-oxo-ethyl}-benzamide (80 mg, 0.16 mmol, 1 eq), methanesulfonyl chloride (0.015 ml, 0.19 mmol, 1.2 eq), TEA (0.07 ml) in THF (1 ml) was stirred at room temperature overnight. It was purified with HPLC to give the desired product. LCMS observed for (M+H)+: 527.2

reactant | N-(2-Amino-ethyl)-3-chloro-N-{2-[3-(3-chloro-2-methyl-phenyl)-4-oxo-imidazolidin-1-yl]-2-oxo-ethyl}-benzamide | 0.16 mmol, 80 mg, 1 eq | NCCN(C(C1=CC(=CC=C1)Cl)=O)CC(=O)N1CN(C(C1)=O)C1=C(C(=CC=C1)Cl)C | C21H22Cl2N4O3
reactant | methanesulfonyl chloride | 0.19 mmol, 0.015 ml, 1.2 eq | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 3-Chloro-N-{2-[3-(3-chloro-2-methyl-phenyl)-4-oxo-imidazolidin-1-yl]-2-oxo-ethyl}-N-(2-methanesulfonylamino-ethyl)-benzamide | ClC=1C=C(C(=O)N(CCNS(=O)(=O)C)CC(=O)N2CN(C(C2)=O)C2=C(C(=CC=C2)Cl)C)C=CC1 | C22H24Cl2N4O5S
